US05451594
Step 1: 6-methoxy-2-(4-bromo-4,4-difluorobutylthio)benzoxazole.
A mixture of 6-methoxy-2-mercaptobenzoxazole (1.77 g, 9.8 mmoles), 4-bromo-4,4-difluorobutyl methanesulphonate (2.4 g, 9 mmoles), potassium carbonate (5 g, 36.2 mmoles) and acetone (60 cm3) was stirred at the ambient temperature for 18 hours. The precipitate which formed was removed by filtration and the filtrate evaporated under reduced pressure to give a brown oil which was purified by chromatography on silica gel, eluted with a 1:4 mixture of ethyl acetate and hexane, to give the title intermediate product as a light yellow oil. 1H NMR (CDCl3): δ7.48(d,1H); 7.00(d,1H); 6.90(dd,1H); 3.85(s,3H); 3.38(t,2H); 2.50-2.68(m,2H).

reactant | 6-methoxy-2-mercaptobenzoxazole | 9.8 mmoles, 1.77 g | COC1=CC2=C(N=C(O2)S)C=C1 | C8H7NO2S
reactant | 4-bromo-4,4-difluorobutyl methanesulphonate | 9 mmoles, 2.4 g | CS(=O)(=O)OCCCC(F)(F)Br | C5H9BrF2O3S
reactant | potassium carbonate | 36.2 mmoles, 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 cm3 | CC(=O)C | C3H6O
product | 6-methoxy-2-(4-bromo-4,4-difluorobutylthio)benzoxazole | COC1=CC2=C(N=C(O2)SCCCC(F)(F)Br)C=C1 | C12H12BrF2NO2S
